US04352805
To a mixture of 3.00 g (10.6 mmoles) of 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzoxepin-1-yl)methoxy]ethanol and 1.63 ml (11.7 mmoles) of triethylamine is added 2.59 g (11.7 mmoles) of p-nitrobenzenesulfonyl chloride. The reaction mixture is stirred at room temperature for 1 hour and then heated at 50° for 30 minutes. To this is added an additional 0.5 g of p-nitrobenzenesulfonyl chloride and 0.5 ml of triethylamine. After stirring at room temperature for 30 minutes, the reaction mixture is extracted with aqueous sodium bicarbonate and brine. The organic layer is filtered through sodium sulfate and taken to dryness. The residue is chromatographed on silica gel using 1% methanol methylene chloride as eluant to give 1.56 g (32%) 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzoxepin-1-yl)methoxy]ethyl 4-nitrobenzene sulfonate. The nmr spectrum was consistent with the assigned structure.

reactant | 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzoxepin-1-yl)methoxy]ethanol | 10.6 mmoles, 3.00 g | COC=1C(=CC2=C(CCCOC2COCCO)C1)OC | C15H22O5
reactant | p-nitrobenzenesulfonyl chloride | 11.7 mmoles, 2.59 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | p-nitrobenzenesulfonyl chloride | 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 11.7 mmoles, 1.63 ml | C(C)N(CC)CC | C6H15N
product | 2-[(1,3,4,5-tetrahydro-7,8-dimethoxy-2-benzoxepin-1-yl)methoxy]ethyl 4-nitrobenzene sulfonate | 1.56 g, 32% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OCCOCC1OCCCC2=C1C=C(C(=C2)OC)OC | C21H25NO9S
